US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 160 mg, 0.371 mmol) was dissolved in DMF (1 mL) prior to the addition of 4-methylmorpholine (0.245 mL, 2.226 mmol), tert-butyl 2-aminoacetate (88 mg, 0.668 mmol), and HATU (254 mg, 0.668 mmol). The reaction mixture was stirred overnight before EtOAc was added. The EtOAc solution was washed with 1N HCl, sat NaHCO3, and brine. The organic layer was then dried (MgSO4) and concentrated to give (R/S)-tert-butyl 2-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)acetate (159.5 mg, 0.293 mmol): LCMS=546.2 [M+H]+. The (R/S)-tert-butyl 2-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)acetate (159 mg, 0.294 mmol) was dissolved in CH2Cl2 (1 mL) and TFA (2.0 mL). This was stirred for 1 h and was then concentrated to give 2-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)acetic acid (148 mg, 0.303 mmol): LCMS=489.1 [M+H]+. A portion of the (R/S)-2-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)acetic acid (30 mg, 0.061 mmol) was dissolved in DMF (1 mL) prior to the addition of 4-methylmorpholine (0.041 mL, 0.369 mmol), 1-methylazetidin-3-amine-2HCl (17.59 mg, 0.111 mmol), and HATU (42.0 mg, 0.111 mmol). This was stirred overnight and was then purified via preparative LCMS with the following conditions: Column: Waters XBridge C18, 19×250 mm, 5-μm particles; Guard Column: Waters XBridge C18, 19×10 mm, 5-μm particles; Mobile Phase A: 5:95 methanol:water with 10-mM ammonium acetate; Mobile Phase B: 95:5 methanol:water with 10-mM ammonium acetate; Gradient: 50-100% B over 25 minutes, then a 5-minute hold at 100% B; Flow rate=20 mL/min. Fractions containing the desired product were combined and dried via centrifugal evaporation to give (R/S)-2-hydroxy-N-(2-(1-methylazetidin-3-ylamino)-2-oxoethyl)-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (11.3 mg, 0.020 mmol, 32.4% yield): LCMS=557.2 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.18 (2 H, d, J=8.28 Hz), 7.66-7.80 (4 H, m), 7.55-7.65 (3 H, m), 5.20 (1 H, s), 4.47 (1 H, t, J=7.28 Hz), 3.82-4.02 (4 H, m), 3.49 (2 H, t, J=7.78 Hz), 2.58 (3 H, s); Analytical LCMS: column: Mac-mod Halo C18, 4.6×50 mm, 2.7-μm particles; Mobile Phase A: 5:95 acetonitrile:water with 10 mM ammonium acetate; Mobile Phase B: 90:10 acetonitrile:water with 10 mM ammonium acetate; Temperature: 45° C.; Gradient: 0-100% B over 4 minutes, flow rate=4 mL/min, product retention=2.1 min.

reactant | (R/S)-tert-butyl 2-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)acetate | 0.294 mmol, 159 mg | OC(C(=O)NCC(=O)OC(C)(C)C)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C26H23F3N4O6
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)acetic acid | 0.303 mmol, 148 mg | OC(C(=O)NCC(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C22H15F3N4O6
